US08293737B2
d) Ethyl 6-(2,3-dihydro-1H-inden-2-ylamino)-1-ethyl-1,4-dihydro-4-oxo-1,5-naphthyridine-3-carboxylate
A mixture of ethyl 6-(2,3-dihydro-1H-inden-2-ylamino)-1,4-dihydro-4-oxo-1,5-naphthyridine-3-carboxylate (600 mg), iodoethane (1 g) and potassium carbonate (600 mg) were heated at 90° C. in DMF (20 ml) overnight. After a standard ethyl acetate/aqueous work-up, the residue from the evaporated organic layer (crude cyclized ethyl ester), was heated at 80° C. in a mixture of ethanol (25 ml) and 2M NaOH (10 ml) for 2 h. This was then cooled to room temperature, aq. HCl was added to adjust the pH to 5, at which point the product precipitated and was filtered off, washed with water, and dried to give the crude product (˜350 mg).

reactant | ethyl 6-(2,3-dihydro-1H-inden-2-ylamino)-1,4-dihydro-4-oxo-1,5-naphthyridine-3-carboxylate | 600 mg | C1C(CC2=CC=CC=C12)NC=1N=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C20H19N3O3
reactant | iodoethane | 1 g | ICC | C2H5I
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | NaOH | 2M, 10 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 6-(2,3-dihydro-1H-inden-2-ylamino)-1-ethyl-1,4-dihydro-4-oxo-1,5-naphthyridine-3-carboxylate | ˜350 mg | C1C(CC2=CC=CC=C12)NC=1N=C2C(C(=CN(C2=CC1)CC)C(=O)OCC)=O | C22H23N3O3
